US04727081
N-Methyl-N'-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]1,3,4-oxadiazole-2,5-diamine
The compound is prepared by a method analogous to that of Example 40 from N-methyl-N'-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]-1,2-hydrazine dicarboxamide and phosphorus oxychloride. The analytical values are summarized in Table III.

reactant | N-methyl-N'-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]-1,2-hydrazine dicarboxamide | CNC(=O)NNC(=O)NCCCOC1=CC(=CC=C1)CN1CCCCC1 | C18H29N5O3
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | N-Methyl-N'-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]1,3,4-oxadiazole-2,5-diamine | CNC=1OC(=NN1)NCCCOC1=CC(=CC=C1)CN1CCCCC1 | C18H27N5O2
